US07348456B2
Step A: Ethyl 2-Methyl-2-(5-chloro-2-pyridyloxy)propionate
A mixture of 5-chloro-2-hydroxypyridine (5.0 g, 39 mmol), ethyl 2-bromoisobutyrate (5.7 mL, 39 mmol) and cesium carbonate (25 g, 77 mmol) in 50 mL of acetonitrile was heated at 50° C. overnight. The volatile materials were removed by concentrating on a rotary evaporator, and the residue was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic layer was separated and the aqueous layer extracted with ethyl acetate (2×100 mL). The combined organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated to dryness, and the residue was purified by flash column chromatography on silica gel eluted with 5% ethyl acetate in hexane to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.99 (d, m), 7.67 (dd, 1H), 6.68 (d, 1H), 4.13 (q, 2H), 1.64 (s, 6H), 1.14 (t, 3H). LC-MS: m/e 244 (M+H)+ (3.41 min).

reactant | 5-chloro-2-hydroxypyridine | 39 mmol, 5.0 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | ethyl 2-bromoisobutyrate | 39 mmol, 5.7 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | 77 mmol, 25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Ethyl 2-Methyl-2-(5-chloro-2-pyridyloxy)propionate | CC(C(=O)OCC)(C)OC1=NC=C(C=C1)Cl | C11H14ClNO3
